US06124354
3-Quinuclidinyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutancarbonyl chloride with 3-quinuclidinol at 80° C. for 15 h. The yield was 0.4 g (22%); mp 163-168° C.; 1H NMR (D2O) δ 1.80 (m, 2H), 1.88-2.02 (m, 2H), 2.04-2.17 (m, 2H), 2.38 (m, 1H), 2.59-2.70 (m, 2H), 2.90 (m, 2H), 3.08 (q, 1H), 3.18 (d, 1H), 3.28-3.39 (m, 3H), 3.69 (m, 1H), 5.18 (m, 1H), 7.42 (m, 1H), 7.47-7.54 (m, 4H). Anal. (C18H23NO2.HCl.0.5H2O) C, H, N.

reactant | 1-phenylcyclobutancarbonyl chloride | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-Quinuclidinyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C18H23NO2.ClH/c20-17(21-16-13-19-11-7-14(16)8-12-19)18(9-4-10-18)15-5-2-1-3-6-15;/h1-3,5-6,14,16H,4,7-13H2;1H
